US08629168B2
d) 4-Amino-2-bromo-pyridin-3-ol
A solution of 5.3 g (22.7 mmol) 2-bromo-4-nitro-pyridin-3-ol in 100 ml MeOH:THF=1:2 is hydrogenated in the presence of 0.5 g Pt/C (5%, Engelhard 4709). The reaction mixture is filtered (2 glass fiber filters used) and the filtrate is concentrated in vacuo to afford the crude title compound as a brown solid.

reactant | 2-bromo-4-nitro-pyridin-3-ol | 22.7 mmol, 5.3 g | BrC1=NC=CC(=C1O)[N+](=O)[O-] | C5H3BrN2O3
reactant | THF | C1CCOC1 | C4H8O
solvent | MeOH | 100 ml | CO | CH4O
catalyst | Pt/C | 0.5 g | [Pt] | Pt
product | 4-Amino-2-bromo-pyridin-3-ol | NC1=C(C(=NC=C1)Br)O | C5H5BrN2O
